US08937087B2
To a mixture of (5-chloro-2-oxo-1,3-benzothiazol-3(2H)-yl)acetic acid (731 mg), 1-(1H-benzimidazol-2-yl)-N-methylmethanamine dihydrochloride (736 mg), and dichloromethane (20 mL) were added HOBt (448 mg), WSC.HCl (633 mg), and TEA (1.05 mL), followed by stirring at room temperature overnight. The resulting solid was collected by filtration and then washed with chloroform to obtain N-(1H-benzimidazol-2-ylmethyl)-2-(5-chloro-2-oxo-1,3-benzothiazol-3(2H)-yl)-N-methylacetamide (925 mg).

reactant | (5-chloro-2-oxo-1,3-benzothiazol-3(2H)-yl)acetic acid | 731 mg | ClC=1C=CC2=C(N(C(S2)=O)CC(=O)O)C1 | C9H6ClNO3S
reactant | 1-(1H-benzimidazol-2-yl)-N-methylmethanamine dihydrochloride | 736 mg | Cl.Cl.N1C(=NC2=C1C=CC=C2)CNC
reactant | HOBt | 448 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | WSC.HCl | 633 mg | CCN=C=NCCCN(C)C.Cl
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | N-(1H-benzimidazol-2-ylmethyl)-2-(5-chloro-2-oxo-1,3-benzothiazol-3(2H)-yl)-N-methylacetamide | 925 mg | N1C(=NC2=C1C=CC=C2)CN(C(CN2C(SC1=C2C=C(C=C1)Cl)=O)=O)C | C18H15ClN4O2S
